US04839360
To a solution of 670 mg of 6-(3,4-dimethoxyphenyl)-1-(4-chlorophenyl)-2-piperidone in 17 ml of methylene chloride was added, under ice-cooling, 1.0 ml of boron tribromide, and the mixture was stirred under ice-cooling for 1 hour and at room temperature for 45 minutes. The mixture was treated with ice-water, extracted with chloroform. The extracts were washed with water, dried, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to give 480 mg of 6-(3,4-dihydroxyphenyl)-1-(4-chlorophenyl)-2-piperidone as colorless prisms.

reactant | 6-(3,4-dimethoxyphenyl)-1-(4-chlorophenyl)-2-piperidone | 670 mg | COC=1C=C(C=CC1OC)C1CCCC(N1C1=CC=C(C=C1)Cl)=O | C19H20ClNO3
reactant | boron tribromide | 1.0 ml | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 17 ml | C(Cl)Cl | CH2Cl2
product | 6-(3,4-dihydroxyphenyl)-1-(4-chlorophenyl)-2-piperidone | 480 mg, Yield: 78% | OC=1C=C(C=CC1O)C1CCCC(N1C1=CC=C(C=C1)Cl)=O | C17H16ClNO3
